US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-N-(methylsulfonyl)-1,2-benzisothiazole-3-acetamide
N,N-Dimethylformamide (8 drops) is added to a mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid (2.00 g, 0.00484 mol) and methylene chloride. The mixture is cooled on an ice bath and oxalyl chloride (2.0 M in methylene chloride, 6.05 ml, 0.0121 mol) is added. The resultant mixture is stirred one hour on an ice bath and concentrated in vacuo. The residue is taken up in tetrahydrofuran. Methylsulfonamide (0.690 g, 0.00726 mol) is added, followed by ethyldiisopropylamine (0.940 g, 0.00727 mol) and dimethylaminopyridine (0.100 g). The resultant mixture is stirred at room temperature and filtered. The filtrate is concentrated in vacuo and the residue is filtered through silica gel with hexanes:ethyl acetate. The filtrate is concentrated in vacuo to a tan solid. The solid is suspended in methylene chloride, stirred, and refiltered to give the title compound as a white solid (0.320 g, 13.5%, mp 264-265° C.).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid | 0.00484 mol, 2.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)O)(C)C)C1)=O | C17H14F3N3O4S
reactant | oxalyl chloride | 0.0121 mol, 2.0 M, 6.05 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Methylsulfonamide | 0.00726 mol, 0.690 g | CS(=O)(=O)N | CH5NO2S
reactant | ethyldiisopropylamine | 0.00727 mol, 0.940 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylaminopyridine | 0.100 g | CN(C)C1=NC=CC=C1 | C7H10N2
catalyst | N,N-Dimethylformamide | 8 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α,α-dimethyl-N-(methylsulfonyl)-1,2-benzisothiazole-3-acetamide | 0.320 g, 13.5% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)NS(=O)(=O)C)(C)C)C1)=O | C18H17F3N4O5S2
